US06197791B1
1-Benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid was prepared starting from 1-benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester (2.11 g, 4.1 mmol) dissolved in THF:methanol (3:1 150 ml) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.11 g (56%); white solid; mp 201° C.; MS: 485.9 (M+H)+

reactant | 1-benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | 4.1 mmol, 2.11 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C27H28ClNO5S
solvent | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 1-Benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C25H24ClNO5S
